US08357688B2
To a mixture of 37 mg of (+)-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methyl-1-(tetrahydro-2H-pyran-3-yl)imidazo[1,5-a]quinoxalin-4(5H)-one in 1 mL of methanol and 2 mL of tetrahydrofuran was added 32 μL of 4 M hydrogen chloride/ethyl acetate, followed by stirring at room temperature for 1 hour. The precipitated solid was collected by filtration, washed with ethyl acetate, and then dried under reduced pressure to obtain 24 mg (>99% ee) of (+)-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methyl-1-(tetrahydro-2H-pyran-3-yl)imidazo[1,5-a]quinoxalin-4(5H)-one hydrochloride as a white solid.

reactant | (+)-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methyl-1-(tetrahydro-2H-pyran-3-yl)imidazo[1,5-a]quinoxalin-4(5H)-one | 37 mg | C1N(CC2=CC=CC=C12)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NC3)C3COCCC3)=O | C25H24N4O3
reactant | hydrogen chloride ethyl acetate | 4 M, 32 μL | Cl.C(C)(=O)OCC
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (+)-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methyl-1-(tetrahydro-2H-pyran-3-yl)imidazo[1,5-a]quinoxalin-4(5H)-one hydrochloride | 24 mg | Cl.C1N(CC2=CC=CC=C12)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NC3)C3COCCC3)=O | InChI=1S/C25H24N4O3.ClH/c1-15-9-21-20(10-19(15)25(31)28-12-16-5-2-3-6-17(16)13-28)27-24(30)22-11-26-23(29(21)22)18-7-4-8-32-14-18;/h2-3,5-6,9-11,18H,4,7-8,12-14H2,1H3,(H,27,30);1H
